US07943609B2
N4-[(1R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methylpropyl]quinoline-3,4-diamine (6.12 g, 12.5 mmol) was dissolved in 100 mL of dry 1,2-dichloroethane and the solution was stirred under N2. Ethyl 2-chloroethanimidoate hydrochloride (2.77 g, 17.5 mmol) was then added and the reaction mixture was heated to 70° C. After stirring for 3 days, the reaction mixture was treated with an additional 1.00 g of ethyl 2-chloroethanimidoate hydrochloride and the reaction temperature was increased to 85° C. After stirring for 2 days, the reaction was cooled and the 1,2-dichloroethane was removed under reduced pressure. The resulting material was partitioned between 200 mL of saturated NaHCO3 solution and 200 mL of ethyl acetate. The layers were separated and the organic portion was washed with H2O and brine. The organic portion was then dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 25%-50% ethyl acetate/hexanes) gave 1-[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methylpropyl]-2-(chloromethyl)-1H-imidazo[4,5-c]quinoline (1.74 g) as a golden syrup.

reactant | N4-[(1R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methylpropyl]quinoline-3,4-diamine | 12.5 mmol, 6.12 g | [Si](C)(C)(C(C)(C)C)OC([C@@H](CO[Si](C)(C)C(C)(C)C)NC1=C(C=NC2=CC=CC=C12)N)(C)C | C26H47N3O2Si2
reactant | Ethyl 2-chloroethanimidoate hydrochloride | 17.5 mmol, 2.77 g | Cl.ClCC(OCC)=N
reactant | ethyl 2-chloroethanimidoate hydrochloride | 1.00 g | Cl.ClCC(OCC)=N
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | 1-[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methylpropyl]-2-(chloromethyl)-1H-imidazo[4,5-c]quinoline | 1.74 g | [Si](C)(C)(C(C)(C)C)OC([C@@H](CO[Si](C)(C)C(C)(C)C)N1C(=NC=2C=NC=3C=CC=CC3C21)CCl)(C)C | C28H46ClN3O2Si2
